US09371295B2
Step 6: (S)-tert-butyl 3-((1-(5-(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)oxazol-2-yl)-7-oxononyl)carbamoyl)azetidine-1-carboxylate
A solution of 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (1.3 eq), HOBt (1.3 eq) and EDC.HCl (1.3 eq) in DMF (premixed for 10 min) was added to S)-3-(2-(1-amino-7-oxononyl)oxazol-5-yl)-1-methylquinolin-2(1 H)-one (1 eq), obtained as described above. The mixture was stirred o/n at room temperature. The reaction mixture was diluted with DCM, washed with sat. aq. NaHCO3 solution, brine, dried (Na2SO4), filtered and concentrated. The mixture was purified by flash chromatography on silica, eluting with EtOAc/petroleum ether (from 50% of EtOAc to 100% of EtOAc). MS (ES) C31H40N4O6 requires: 564.67, found: 565.

reactant | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 1.3 eq | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | HOBt | 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.3 eq | CCN=C=NCCCN(C)C.Cl
reactant | 3-(2-(1-amino-7-oxononyl)oxazol-5-yl)-1-methylquinolin-2(1 H)-one | 1 eq | NC(CCCCCC(CC)=O)C=1OC(=CN1)C=1C(N(C2=CC=CC=C2C1)C)=O | C22H27N3O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 3-((1-(5-(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)oxazol-2-yl)-7-oxononyl)carbamoyl)azetidine-1-carboxylate | CN1C(C(=CC2=CC=CC=C12)C1=CN=C(O1)[C@H](CCCCCC(CC)=O)NC(=O)C1CN(C1)C(=O)OC(C)(C)C)=O | C31H40N4O6
